US05532236
a. 4-Amino-2-fluoro-5-nitrobenzonitrile
20 g (108 mmol) of 2,4-difluoro-5-nitrobenzonitrile was added to 200 ml of 25% ammonium hydroxide and the mixture was stirred for 90 min. at room temperature. The yellow precipitate was isolated by filtration and washed with water and a small amount of cold ethanol to give 18.8 g (96%) of the title compound. M.p. 197°-199° C.

reactant | 2,4-difluoro-5-nitrobenzonitrile | 108 mmol, 20 g | FC1=C(C#N)C=C(C(=C1)F)[N+](=O)[O-] | C7H2F2N2O2
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
product | 4-Amino-2-fluoro-5-nitrobenzonitrile | 18.8 g, 96% | NC1=CC(=C(C#N)C=C1[N+](=O)[O-])F | C7H4FN3O2
